US09359389B2
(4S,5R,1′E)-tert-Butyl-4-(hydroxymethyl)-2,2-dimethyl-5-(pentadec-1′-enyl) -oxazolidine-3-carboxylate (16).S7 To a solution of D-erythro-sphingosine (400 mg, 1.3 mmol) in EtOH/H2O (2:1, 9 mL) was added aqueous 1 N NaOH (3.9 mL, 3.9 mmol) and (Boc)2O (851 mg, 3.9 mmol). The reaction mixture was stirred at rt until the consumption of the starting material was observed by TLC (hexane/EtOAc 3:1): Rf0.12. The reaction was quenched with saturated aqueous NH4Cl solution (30 mL), and the product was extracted with EtOAc (2×25 mL), dried (Na2SO4), and concentrated. The resulting residue was purified by flash chromatography (hexane/EtOAc 3:1) to afford the N-Boc-sphingosine derivative (495 mg, 95%): Rf0.22. The Boc derivative (180 mg, 0.45 mmol) was thoroughly dried in vacuum and then was dissolved in CH2Cl2 (10 mL). After imidazole (122 mg, 1.8 mmol) and TBDPSCl (236 μL, 0.90 mmol) were added, the reaction mixture was stirred for 3 h at rt, and then was concentrated. The residue was purified by flash chromatography (hexane/EtOAc 3:1): Rf 0.65. To a solution of the silylated primary alcohol in benzene (30 mL) were added 2,2-dimethoxypropane (220 μL, 1.8 mmol) and catalytic p-TsOH.H2O (1 mg, 0.010 mmol). The reaction mixture was heated at reflux in a Dean-Stark trap for 30 min. The reaction was quenched with saturated aqueous NaHCO3 solution (15 mL), and the product was extracted with EtOAc (2×15 mL), dried (Na2SO4), concentrated, and purified by flash chromatography (hexane/EtOAc 3:1) to afford the isopropylidene derivative: Rf0.75. The isopropylidene intermediate was treated with TBAF (11.25 mL, 1 M solution in THF, 11.25 mmol) for 6 h at rt. The reaction mixture was diluted with H2O (10 mL), and the product was extracted with EtOAc (2×15 mL), dried (Na2SO4), concentrated, and purified by flash chromatography (hexane/EtOAc 3:1) to afford protected sphingosine derivative 16 (92 mg, 47%): Rf0.51 (hexane/EtOAc 3:1); 1H NMR (CDCl3) δ 0.88 (t, 3H, J=6.8 Hz), 1.26 (m, 22H), 1.49 (s, 9H), 1.54 (s, 3H), 1.60 (s, 3H), 2.07 (q, 2H, J=5.6 Hz), 3.50 (br s, 1H), 3.65 (m, 1H), 3.80 (m, 1H), 4.09 (m, 1H), 4.57 (m, 1H), 5.46 (dd, 1H, J=7.5, 15.2 Hz), 5.88 (dt, 1H, J=6.5, 13.8 Hz); 13C NMR (CDCl3) δ 14.1, 22.7, 24.7, 27.8, 28.4, 28.8, 29.2, 29.3, 29.4, 29.5, 29.7, 31.9, 62.0, 63.8, 81.2, 92.9, 123.2, 137.5, 154.4; ESI -HRMS [M+Na]+ C26H49NNaO4 calcd for m/z 462.3559, found 462.3554.

reactant | D-erythro-sphingosine | 1.3 mmol, 400 mg | CCCCCCCCCCCCC/C=C/[C@H]([C@H](CO)N)O | C18H37NO2
reactant | NaOH | 3.9 mmol, 1 N, 3.9 mL | [OH-].[Na+]
reactant | (Boc)2O | 3.9 mmol, 851 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | EtOH H2O | 9 mL | CCO.O
product | N-Boc-sphingosine | 495 mg, 95% | C(=O)(OC(C)(C)C)N[C@@H](CO)[C@H](O)\C=C\CCCCCCCCCCCCC | C23H45NO4
